US07727985B2
(S)-6,6-Dimethyl-4-(2-oxo-2-pyrrolidin-1-yl-ethyl)-morpholine-3-carboxylic acid (6-chloro-9H-beta-carbolin-8-yl)-amide
The desired compound was prepared according to Method F from [(S)-5-(6-Chloro-9H-beta-carbolin-8-ylcarbamoyl)-2,2-dimethyl-morpholin-4-yl]-acetic acid and pyrrolidine in 82% yield.

reactant | [(S)-5-(6-Chloro-9H-beta-carbolin-8-ylcarbamoyl)-2,2-dimethyl-morpholin-4-yl]-acetic acid | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)NC(=O)[C@@H]1COC(CN1CC(=O)O)(C)C | C20H21ClN4O4
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | (S)-6,6-Dimethyl-4-(2-oxo-2-pyrrolidin-1-yl-ethyl)-morpholine-3-carboxylic acid (6-chloro-9H-beta-carbolin-8-yl)-amide | 82% yield | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)NC(=O)[C@H]1N(CC(OC1)(C)C)CC(N1CCCC1)=O | C24H28ClN5O3
